US05686622
The process is performed in a similar manner to that described in Example 3, but starting with 0.35 g of tert-butyl (2S,4S,5S)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-2-thiazolidinecarboxylate dissolved in 10 ml of tetrahydrofuran and 6.6 ml of aqueous 0.1N sodium hydroxide solution. 0.24 g of (2S,4S,5R)-2-tert-butoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-5-thiazolidinecarboxylic acid is thus obtained in the form of a white solid melting at 148° C., [α]D25 =-17°±1° (c=0.504; MeOH); 1H NMR (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 373 K, 5 in ppm): 1.51 (s, 9H: CH3 of the tert-butyl); 2.25 (s, 3H: ArCH3); 3.76 and 4.04 (broad d and d respectively, J=18 Hz, 1H each: COCH2N); 4.18 (d, J=3.5 Hz, 1H: H at C5 of the ring); 5.70 (s, 1H: H at C2 of the ring); 5.97 (d, J=3.5 Hz, 1H: H at C4 of the ring); 6.73 (broad d, J=7.5 Hz, 1H: aromatic H (H ortho to the CH3)); 7.06 (t, J=7.5 Hz, 1H: aromatic H (H meta to the CH3)); 7.10 to 7.50 (mt, 5H: aromatic H); 8.00 (mt, 1H: aromatic H at 6 (H meta to the F)).

reactant | tert-butyl (2S,4S,5S)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-2-thiazolidinecarboxylate | 0.35 g | COC(=O)[C@@H]1[C@@H](N([C@@H](S1)C(=O)OC(C)(C)C)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=C(C=CC=C1)F | C26H30FN3O6S
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,4S,5R)-2-tert-butoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-5-thiazolidinecarboxylic acid | 0.24 g | C(C)(C)(C)OC(=O)[C@@H]1S[C@H]([C@@H](N1C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=C(C=CC=C1)F)C(=O)O | C25H28FN3O6S
